US07786046B2
5.1) Ethyl 4,4,4-trifluoro-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxybutyrate (Tab. 2, No. 2.1)
1.7 g (8.5 mmol) of ethyl 2-amino-4,4,4-trifluoro-3-hydroxybutyrate were dissolved in THF, and initially 1.8 g of 4-fluoro-2-trifluoromethylbenzoic acid and 2.6 g (25.4 mmol) of triethylamine and then, at 5° C., 1.9 g (8.5 mmol) of bis(2-oxo-3-oxazolinidylphosphoryl chloride were added. The mixture was stirred at RT for 16 h. The reaction solution was then concentrated, and the residue was diluted with water and extracted with ethyl acetate. The combined organic phases were dried and the solvent was removed. This gave 3.1 g (93% of theory) of the title compound as a colorless residue.

reactant | ethyl 2-amino-4,4,4-trifluoro-3-hydroxybutyrate | 8.5 mmol, 1.7 g | NC(C(=O)OCC)C(C(F)(F)F)O | C6H10F3NO3
reactant | 4-fluoro-2-trifluoromethylbenzoic acid | 1.8 g | FC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | triethylamine | 25.4 mmol, 2.6 g | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 4,4,4-trifluoro-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxybutyrate | FC(C(C(C(=O)OCC)NC(C1=C(C=C(C=C1)F)C(F)(F)F)=O)O)(F)F | C14H12F7NO4
